US04892872
To a solution of 12 ml of 0.78N aqueous ammonium chloride and 5 ml of dimethylformamide with heating at 85° C. is added 4.8 g of powdery iron under stirring and then a solution of 8.0 g of 6-chloro-3,4-dihydro-4-methyl-7-nitro-3-oxo-N-(3-quinuclidinyl)-2H-1,4-benzoxazine-8-carboxamide in 40 ml of dimethylformamide is added over 10 minutes. The mixture is stirred at 80°-90° C. for an hour and filtered with suction through cellite under heating. The solvent is distilled off and to the residue is added 10 ml of cold water. The crystals are collected by filtration and washed with cold water and recrystallized from ethanol-water to give 7-amino-6-chloro-3,4-dihydro-4-methyl-3-oxo-N-(3-quinuclidinyl)-2H-1,4-benzoxazine-8-carboxamide hydrochloride, melting above 320° C. 1 -NMR(DMSO):δ(ppm)=1.40-2.30 and 2.76-4.50(each m), 3.22(s, 3H), 4.70(s,2H), 5.28(s,2H), 7.18(s,1H), 8.74(d,1H)

reactant | ammonium chloride | 0.78N, 12 ml | [Cl-].[NH4+]
reactant | 6-chloro-3,4-dihydro-4-methyl-7-nitro-3-oxo-N-(3-quinuclidinyl)-2H-1,4-benzoxazine-8-carboxamide | 8.0 g | ClC=1C(=C(C2=C(N(C(CO2)=O)C)C1)C(=O)NC1CN2CCC1CC2)[N+](=O)[O-] | C17H19ClN4O5
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
catalyst | iron | 4.8 g | [Fe] | Fe
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 7-amino-6-chloro-3,4-dihydro-4-methyl-3-oxo-N-(3-quinuclidinyl)-2H-1,4-benzoxazine-8-carboxamide hydrochloride | Cl.NC1=C(C2=C(N(C(CO2)=O)C)C=C1Cl)C(=O)NC1CN2CCC1CC2 | InChI=1S/C17H21ClN4O3.ClH/c1-21-12-6-10(18)15(19)14(16(12)25-8-13(21)23)17(24)20-11-7-22-4-2-9(11)3-5-22;/h6,9,11H,2-5,7-8,19H2,1H3,(H,20,24);1H
